US09108939B2
B: tert-Butyl 4-(4-(3-(cyclopropylmethyl)ureido)phenoxy)piperidine-1-carboxylate
To a stirring solution of 1-(cyclopropylmethyl)-3-(4-hydroxyphenyl)urea (6.79 mmol, 1.4 g) in dimethylacetamide (50 mL) was added cesium fluoride (20.36 mmol, 3.09 g) followed by a solution of tert-butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate (8.15 mmol, 2.276 g) in dimethylacetamide (50 mL). The resulting suspension was heated to 85° C. overnight. The reaction mixture was filtered and the filtrate concentrated under vacuum. The residue was dissolved in dichloromethane and washed with water. The organic layer was separated, dried over magnesium sulfate and concentrated under vacuum. The residue was dissolved in dichloromethane and purified by column chromatography (eluent 2-8% methanol in dichloromethane) to afford the title compound. MS (ESI) m/z 390.0 [M+H]+

reactant | 1-(cyclopropylmethyl)-3-(4-hydroxyphenyl)urea | 6.79 mmol, 1.4 g | C1(CC1)CNC(=O)NC1=CC=C(C=C1)O | C11H14N2O2
reactant | cesium fluoride | 20.36 mmol, 3.09 g | [F-].[Cs+]
reactant | tert-butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate | 8.15 mmol, 2.276 g | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
solvent | dimethylacetamide | 50 mL | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 50 mL | CC(=O)N(C)C | C4H9NO
product | tert-Butyl 4-(4-(3-(cyclopropylmethyl)ureido)phenoxy)piperidine-1-carboxylate | C1(CC1)CNC(NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)=O | C21H31N3O4
